US20010018405A1
Example P-1: 6-Chloro-2-propoxy-3-propylquinazolin-4-one
In a round bottom flask, a mixture of 1.0 g 2-amino-5-chlorobenzoic acid propylamide and 1.86 g tetrapropyl orthocarbonate is heated at 130° C. for 18 h. After cooling, the crude product is purified by column chromatography (eluant: hexane/AcOEt 6:1). Yield: 0.3 g 6-chloro-2-propoxy-3-propylquinazolin-4-one; m.p. 64-66° C.

reactant | 2-amino-5-chlorobenzoic acid propylamide | 1.0 g | C(CC)NC(C1=C(C=CC(=C1)Cl)N)=O | C10H13ClN2O
reactant | tetrapropyl orthocarbonate | 1.86 g | C(OCCC)(OCCC)(OCCC)OCCC | C13H28O4
product | 6-Chloro-2-propoxy-3-propylquinazolin-4-one | ClC=1C=C2C(N(C(=NC2=CC1)OCCC)CCC)=O | C14H17ClN2O2
